US04220591
Ethyl-1-p-ethoxyphenyl-2,2-dimethylcyclopropane-1-carboxylate
Isopropyl-triphenyl-phosphonium iodide (10.8 g) was suspended in dry tetrahydrofuran under argon cover at room temperature. To this suspension was added n-butyl lithium (18 ml of 1.42 M solution in hexane) over 5 minutes. After stirring for an additional 30 minutes, ethyl-2-p-ethoxyphenyl-acrylate (5.51 g) in tetrahydrofuran (50 ml) was added dropwise to the deep red solution while maintaining the temperature between 22°-30°. After the exothermic reaction had subsided the solution was stirred at room temperature for 16 hours. The reaction mixture was then quenched in ice-water and extracted with ether. After washing and evaporated of the ether layer the resulting oil was distilled at 90° (1×10-6Torr.). The oil, nD24 =1.5198, was hydrolysed to the acid without further purification.

reactant | Isopropyl-triphenyl-phosphonium iodide | 10.8 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 1.42 M, 18 ml | C(CCC)[Li]
reactant | ethyl-2-p-ethoxyphenyl-acrylate | 5.51 g | C(C)OC(C(=C)C1=CC=C(C=C1)OCC)=O | C13H16O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl-1-p-ethoxyphenyl-2,2-dimethylcyclopropane-1-carboxylate | C(C)OC(=O)C1(C(C1)(C)C)C1=CC=C(C=C1)OCC | C16H22O3
